US05220042
374 Milligrams of 1-(2-hydroxyethyl)-2,5-dimethoxy-3,6-bis(methoxymethoxy)benzene was dissolved in 3 ml of dimethylformamide, under ice-cooling conditions, 80 mg of sodium hydride (60% dispersion) was added thereto, then 2 ml of tetrahydrofuran solution containing 527 mg of 1-(3-iodopropyl)-2,5-dimethoxy-3,6-bis(methoxymethoxy)benzene was added. The reaction mixture was heated at 50° C. in an oil bath. 6 Hours later, ice water and 100 ml of diethyl ether were added to the reaction mixture. The ether layer was washed twice with 50 ml of water, then washed twice with 50 ml of a saturated sodium chloride aqueous solution, then dried over anhydrous magnesium sulfate. This solution was concentrated under reduced pressure, and the residue obtained was purified by means of a silica gel column chromatography (diameter 3 cm×length 15 cm, eluent: 40% ethyl acetate-n-hexane mixed solvent, adsorbent: "Wakogel C-200") to obtain 484 mg of 2-[2,5-dimethoxy-3,6-bis(methoxymethoxy)phenyl]ethyl 3 -[2,5-dimethoxy-3,6-bis(methoxymethoxy)phenyl]propyl ether.

reactant | 1-(2-hydroxyethyl)-2,5-dimethoxy-3,6-bis(methoxymethoxy)benzene | OCCC1=C(C(=CC(=C1OCOC)OC)OCOC)OC | C14H22O7
reactant | sodium hydride | 80 mg | [H-].[Na+]
reactant | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
reactant | 1-(3-iodopropyl)-2,5-dimethoxy-3,6-bis(methoxymethoxy)benzene | 527 mg | ICCCC1=C(C(=CC(=C1OCOC)OC)OCOC)OC | C15H23IO6
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 2-[2,5-dimethoxy-3,6-bis(methoxymethoxy)phenyl]ethyl 3 -[2,5-dimethoxy-3,6-bis(methoxymethoxy)phenyl]propyl ether | 484 mg | COC1=C(C(=C(C=C1OCOC)OC)OCOC)CCCOCCC1=C(C(=CC(=C1OCOC)OC)OCOC)OC | C29H44O13
